US07713996B2
Sodium cyanoborohydride (3.6 g, 57.8 mmol, 3 equiv.) was added to a stirred solution of 4-methoxy-1H-indole-6-carboxylic acid methyl ester (3.96 g, 19.3 mmol, 1 equiv.) in acetic acid (40 mL) at room temperature over 5 minutes. The mixture was stirred for 30 minutes, then cooled to 0° C. and slowly poured onto concentrated ammonium hydroxide (78 mL, d=0.880) at 0° C. The mixture was diluted with water (20 mL) extracted with dichloromethane (4×25 mL). The organic layers were combined, dried over Na2SO4 and the solvent was removed under vacuum. The crude mixture was purified by flash column chromatography (SiO2, dichloromethane) and the fractions combined to afford 4-methoxy-2,3-dihydro-1H-indole-6-carboxylic acid methyl ester, 2.8 g (70% yield). LC @215 nm; Rt 0.85: 97%, m/z (ES+): 208 (M+H+.); δH (400 MHz; d6-DMSO) 6.90 (1H, s), 6.86 (1H, s), 3.80 (3H, s), 3.79 (3H, s), 3.49 (2H, t), 2.89 (2H, t).

reactant | Sodium cyanoborohydride | 57.8 mmol, 3.6 g, 3 equiv. | C(#N)[BH3-].[Na+]
reactant | 4-methoxy-1H-indole-6-carboxylic acid methyl ester | 19.3 mmol, 3.96 g, 1 equiv. | COC(=O)C1=CC(=C2C=CNC2=C1)OC | C11H11NO3
reactant | ammonium hydroxide | 78 mL | [OH-].[NH4+]
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
solvent | water | 20 mL | O | H2O
product | 4-methoxy-2,3-dihydro-1H-indole-6-carboxylic acid methyl ester | 70% yield | COC(=O)C1=CC(=C2CCNC2=C1)OC | C11H13NO3
